US05089529
Ethyl 4-diisobutylaminobutyrate
To 180 ml of xylene were added 176 grams of ethyl gamma-chlorobutyrate, 302.2 grams of diisobutylamine and 6.0 grams of sodium iodide and the mixture was heated to reflux on an oil bath of 120° to 140° C. for 62 hours. After cooling, salts separated out therefrom were removed by filtration, the filtrate was washed with ether, concentrated, and the residue was distilled in vacuo to give 112 grams of the colorless oily product, b.p. 102-6° C./2 mmHg.

reactant | ethyl gamma-chlorobutyrate | 176 grams | ClCCCC(=O)OCC | C6H11ClO2
reactant | diisobutylamine | 302.2 grams | C(C(C)C)NCC(C)C | C8H19N
catalyst | sodium iodide | 6.0 grams | [I-].[Na+]
solvent | xylene | 180 ml | C=1(C(=CC=CC1)C)C | C8H10
product | Ethyl 4-diisobutylaminobutyrate | 112 grams | C(C(C)C)N(CCCC(=O)OCC)CC(C)C | C14H29NO2
